US07098212B2
6-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxymethyl)-nicotinic acid
To a solution of 6-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxymethyl)-nicotinic acid methyl ester (0.13 g, 0.23 mmol) in 2:2:1 tetrahydrofuran:methanol:H2O (2 mL) was added lithium hydroxide hydrate (0.020 g, 0.48 mmol). The reaction was stirred at ambient temperature for 3 hours, the pH was then adjusted to 4 with 0.2 M hydrochloric acid. The solution was extracted with ethyl acetate and the organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. Trituration in diethyl ether provided the title compound (0.034 g, LRMS: 542.4, 544.5).

reactant | 6-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxymethyl)-nicotinic acid methyl ester | 0.23 mmol, 0.13 g | COC(C1=CN=C(C=C1)COC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C29H31ClFN3O5
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide hydrate | 0.48 mmol, 0.020 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 0.2 M | Cl | ClH
solvent | H2O | 2 mL | O | H2O
solvent | methanol | CO | CH4O
product | 6-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxymethyl)-nicotinic acid | 0.034 g | ClC=1C=CC(=C(OCC2=NC=C(C(=O)O)C=C2)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C28H29ClFN3O5
